US08492437B2
tent-Butyl 2-(4-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3-cyanophenyl)acetate (0.400 g) and 4-methylbenzenesulfonyl azide (0.193 g) were dissolved in 5 ml of acetonitrile and treated with DBU (0.152 ml). The reaction was stirred for 4 hours, then concentrated, diluted with ethyl acetate and washed with water. The organic layer was dried, filtered, concentrated onto silica gel and purified by silica gel chromatography to provide tert-butyl 2-(4-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3-cyanophenyl)-2-diazoacetate (0.48 g) as a bright yellow solid.

reactant | Butyl 2-(4-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3-cyanophenyl)acetate | 0.400 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)CC(=O)OCCCC)C#N)C=C2)C=C1 | C28H27ClN2O4
reactant | 4-methylbenzenesulfonyl azide | 0.193 g | CC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C7H7N3O2S
reactant | DBU | 0.152 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
product | tert-butyl 2-(4-(4-(4-chlorophenethylcarbamoyl)phenoxy)-3-cyanophenyl)-2-diazoacetate | 0.48 g | ClC1=CC=C(CCNC(=O)C2=CC=C(OC3=C(C=C(C=C3)C(C(=O)OC(C)(C)C)=[N+]=[N-])C#N)C=C2)C=C1 | C28H25ClN4O4
